US07476666B2
Step 1: Methyl 3-benzyloxy-5-methyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate
To a solution of methyl 3-benzyloxy-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate (300 mg, 0.966 mmol) in DMF (5 mL) was added iodomethane (74 μL, 1.20 mmol). The solution was cooled to 0° C., treated with NaH (36 mg, 1.49 mmol, 95% dispersion in oil), and stirred for 10 minutes. The reaction was removed from the ice bath and allowed to gradually warm to room temperature. The mixture was partitioned between EtOAc and brine, and the organic extract was dried over Na2SO4 and concentrated in vacuo. Purification by reverse phase chromatography on a C-18 column using a gradient elution of 95-5% H2O (0.1% TFA)/CH3CN (0.1% TFA) and collection and concentration of the appropriate fractions afforded the title product. 1H NMR (400 MHz, CDCl3) δ 7.54-7.53 (m, 2H), 7.37-7.28 (m, 3H), 5.36 (s, 2H), 4.38-4.41 (t, 2H), 3.92 (s, 3H), 3.76-3.72 (t, 2H), 3.16 (s, 3H); ES MS (M+1)=316.

reactant | methyl 3-benzyloxy-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate | 0.966 mmol, 300 mg | C(C1=CC=CC=C1)OC=1C(=NN2C1C(NCC2)=O)C(=O)OC | C15H15N3O4
reactant | iodomethane | 1.20 mmol, 74 μL | IC | CH3I
reactant | NaH | 1.49 mmol, 36 mg | [H-].[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | Methyl 3-benzyloxy-5-methyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate | C(C1=CC=CC=C1)OC=1C(=NN2C1C(N(CC2)C)=O)C(=O)OC | C16H17N3O4
